2168-10-30 08:48:00 Physician Attending Progress Note
Chief Complaint: AMS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo F with HCV cirrhosis, remote IVDU, DM 2, transferred for
   management of AMS.  Discharged recently to home from NH.  Found by
   family to be more lethargic
 brought to OSH ED for eval and
   transferred to [**Hospital1 5**].  Initially admitted directly to floor and then
   transferred to ICU for worsening lethargy, unresponsiveness.  Noted to
   have rigidity, roving eye movements and ? seizure like activity,
   responsive only to painful stimuli, intubated for airway control on
   arrival to MICU.
   During course thus far received lactulose, ativan, (and haldol X 1 at
   OSH).
   24 Hour Events:
 EKG - At [**2168-10-30**] 01:48 AM
 ARTERIAL LINE - START [**2168-10-30**] 03:16 AM
   Intubated
   head ct--wet read neg for bleed
   neurology consult obtained
   History obtained from HO
   Patient unable to provide history: intubated
   Allergies:
   Tetracycline
   Rash;
   Metoclopramide
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-10-30**] 06:35 AM
   Vancomycin - [**2168-10-30**] 07:05 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-10-30**] 08:07 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-30**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 130 (114 - 130) bpm
   BP: 142/76(97) {142/76(97) - 161/95(120)} mmHg
   RR: 19 (18 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
             3,289 mL
   PO:
             TF:
   IVF:
   3,289 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    265 mL
   Urine:
   265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  3,024 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 14 cmH2O
   Plateau: 12 cmH2O
   SpO2: 98%
   ABG: 7.45/33/127/21/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: WDWN F, intubated
   Eyes / Conjunctiva: roving eye movements, unresponsive, PERRLA
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal) no murmur
   Lungs CTA b/l
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Musculoskeletal: slightly stiff, no frank rigidity, no clonus
   Skin: small, erythematous, peticheal appearing  excoriation on LE b/l
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, babinskis upgoing
   Labs / Radiology
   11.9 g/dL
   90 K/uL
   194
   1.2 mg/dL  (0.5-0.7)
   21 mEq/L
   4.2 mEq/L
   28 mg/dL
   105 mEq/L
   138 mEq/L
   35.2 %
   10.8 K/uL  (4.5 at OSH)
        [image002.jpg]
                             [**2168-10-30**]  01:39 AM
                             [**2168-10-30**]  02:35 AM
                             [**2168-10-30**]  04:45 AM
   WBC
   10.8
   Hct
   35.2
   Plt
   90
   Cr
   1.2
   TropT
   0.02
   TCO2
   22
   24
   Glucose
   204
   194
   Other labs: PT / PTT / INR:18.7/34.6/1.7, CK / CKMB /
   Troponin-T:220/7/0.02, ALT / AST:79/87, Alk Phos / T Bili:105/2.1,
   Amylase / Lipase:34/27, Differential-Neuts:80.9 %, Lymph:10.0 %,
   Mono:4.6 %, Eos:4.4 %, Lactic Acid:2.7 mmol/L (4.5), Albumin:2.8 g/dL,
   LDH:469 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:5.4 mg/dL
   Fluid analysis / Other labs: urine urea 650
   neg urine/serum tox
   Imaging: cxr--et opk, ngt in place, fullness at hilar vessels, no focal
   infiltrates
   Microbiology: urine and bl cx pending
   ECG: sinus tac 118, no acute changes
   Assessment and Plan:
   52 yo F with
   1)       Acute Mental Status Change
   2)       Acute Respiratory Failure (secondary to neuro dysfunction )
   3)       Sinus tachycardia
   4)       ARF
   Mental status changes seem most likely from severe hepatic
   encephalopathy, as medical noncompliance is reported by family with
   multiple admits for encephalopathy.  However differential includes
   seizure, meningitis/ infection or other toxic metabolic insult.  Non
   focal exam and has been AF with normal wbc ct, and hemodynamic
   stablity.  Tox screens neg.
       #AMS
   --Infection w/u pending with blood and urine cx
s sent.  Ultrasound to
   assess for ascitis fluid
if present will tap.  LP
will need FFP given
   INR  1.7.  Covering empirically for
   meningitis--Ceftriaxone/vancomycin--(though af and normal wbc and lower
   on ddx).  Will add acyclovir pending LP/ results.
    -- Ct head unrevealing.
   -- Await EEG to assess sz activity.  On propofol.  Neuro following.
    -- Continue lactulose
    -- Check TSH, RPR
       #Resp failure
    -- Continue ACV support.  Oxygenating well. Decrease RR to normalize
   pH.
       # ARF
appears dry and likely perrenal, lower suspicion for HRS.
   Urine output minimal.
   IVF bolus.  Check urine lytes
     # sinus tach
no hx of recent etoh, drug use per family, is on
   transplant list.
   --suspect she is dry, will bolus and follow urine output.  Consider CVL
   for CVP though without other indication at this time.
Still have
   concern for withdrawal
tox screens neg. on propofol
   --No hypoxia on admission to suspect PE.  Not hypotensive.  Would check
   echo.
   ICU Care
   Nutrition:   NPO for now, would start TF
   Glycemic Control:  Regular insulin sliding scale, Comments: lantus
   Lines:
   20 Gauge - [**2168-10-30**] 01:49 AM
   Arterial Line - [**2168-10-30**] 03:16 AM
   18 Gauge - [**2168-10-30**] 05:50 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   We had planned for bedside LP.  Pt has incision on LS spine and upon
   review of prior imaging of spine pt had fusion of L4-S1 with hardware
   in place.  Feel bedside procedure would not be optimal.  Will discuss
   with IR regarding fluoro guided procedure and talk with neuro regarding
   empiric CNS coverage as we added acyclovir to vanco/ctx, though pt ahs
   been AF, nl WBC, and we have low clinical suspicion for CNS infection.
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2168-10-30**] 13:44 ------

2168-11-01 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Copious stool
   Hepatology recommended treating for UTI with ctx
 LUMBAR PUNCTURE - At [**2168-10-31**] 10:30 AM
   pt. brought to INR for LP under fluoroscopy, clear tap --- resp
   precautions d/c
d, abx changed
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2168-11-1**] 01:02 AM
   pt restless and agitated this pm.  found with large air leak, tube out
   several cm.  HO advised, removed ETT and ogt.  cxr done
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2168-11-1**]
   01:19 AM
   pt restrained with soft arm restraints, pulled ngt out. replaced
   without event, checked placement.  soft mitts added to restraints
   Allergies:
   Tetracycline
   Rash;
   Metoclopramide
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2168-10-30**] 12:23 PM
   Ceftriaxone - [**2168-10-31**] 05:43 AM
   Vancomycin - [**2168-10-31**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-10-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-11-1**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.5
C (97.7
   HR: 102 (102 - 128) bpm
   BP: 126/66(87) {117/59(76) - 144/80(101)} mmHg
   RR: 16 (15 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  3,252 mL
                                                                    323 mL
   PO:
             TF:
                                                                    645 mL
                                                                     75 mL
   IVF:
                                                                  1,296 mL
                                                                     68 mL
   Blood products:
                                                                    810 mL
   Total out:
                                                                    675 mL
                                                                    735 mL
   Urine:
                                                                    675 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,577 mL
                                                                   -412 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 422 (0 - 435) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.43/39/91/26/1
   Ve: 11.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   8.4 g/dL
   195 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.2 mEq/L
   20 mg/dL
   113 mEq/L
   144 mEq/L
   25.2 %
   4.4 K/uL
        [image002.jpg]
                             [**2168-10-30**]  02:35 AM
                             [**2168-10-30**]  04:45 AM
                             [**2168-10-30**]  06:25 PM
                             [**2168-10-31**]  04:50 AM
                             [**2168-10-31**]  04:53 AM
                             [**2168-10-31**]  06:18 AM
                             [**2168-10-31**]  10:16 AM
                             [**2168-10-31**]  05:11 PM
                             [**2168-11-1**]  02:51 AM
                             [**2168-11-1**]  03:08 AM
   WBC
   10.8
   5.3
   5.0
   4.7
   4.4
   Hct
   35.2
   25.3
   25.2
   25.6
   25.2
   Plt
   90
   38
   34
   57
   49
   42
   Cr
   1.2
   0.9
   0.9
   0.7
   TropT
   0.02
   TCO2
   24
   25
   27
   Glucose
   [**Telephone/Fax (3) 764**]60
   195
   Other labs: PT / PTT / INR:19.6/36.3/1.8, CK / CKMB /
   Troponin-T:150/7/0.02, ALT / AST:49/41, Alk Phos / T Bili:74/1.8,
   Amylase / Lipase:34/27, Differential-Neuts:79.0 %, Lymph:11.3 %,
   Mono:4.9 %, Eos:4.8 %, Lactic Acid:1.9 mmol/L, Albumin:3.1 g/dL,
   LDH:247 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   52 y/o F with HCV cirrhosis, thrombocytopenia admitted with altered
   mental status.
   # Altered mental status: patient unresponsive to voice with roving eye
   movements and alternating twitching and rigidity on admission.  Likely
   [**3-19**] hepatic encephalopathy as NH3 very elevated.  Head CT shows no
   acute process.  TSH c/w SICU thyroid
   - treating for hepatic encephalopathy aggressively with
   lactulose/rifaximin via NG tube
   - IR guided LP to r/o CSF infection, will give FFP and platelets prior
   to LP
   - Follow EEG read
   - Meningitis prophylactic treatment with Vanc/Cef/Acyclovir
   - Droplet precautions
   - Appreciate Neuro input
   - hold SSRi and seroquel given possibility of NMS/serotonin syndrome
   - Add thiamine, folate, B12 for possible EtOH history
   - intubated for airway protection on arrival to the MICU
   # Other infection
 Febrile overnight.  GPC in pairs and chains on
   blood culture.  Sources include ascites, endocarditis, CSF, or PNA.
   Current coverage is sufficient for most GPC with exception of VRE.
   This may also be a contaminant.
   - complete abdominal ultrasound today  to evaluate liver parenchyma,
   ascites, and portal vein patency
   - Follow culture and sensitivity; would add dapto if cultures show
   Enterococcus.
   - Will do abdominal tap this afternoon to r/o SBP
   # Tachycardia: Patient tachycardic to 120-130s on arrival to ICU.
   Previous records show HRs consistently under 100.  Has come down
   slightly with aggressive IVF, but now 6L up.  FeUREA suggested
   pre-renal even though she did not respond to boluses.  Vigileo SVV is
   ~7, suggesting fluid replete.  Current tachycardia may be related to
   anxiety and fever.  Also ? role of primary neurologic component though
   neurology believes NMS/serotonin syndrome unlikely. Other
   considerations include pulmonary embolism though maintaining good O2
   sats (though hypoxia not always present in PE); pericardial effusion,
   though no pulsus on A line.  ECG showed sinus tachycardia without
   non-rate related changes.
   - echocardiogram to r/o strain, endocarditis
   - continue to treat fever and anxiety
   # CBC:  All lines down in the setting of significant volume repletion.
   Vital signs not consistent with massive hemorrhage
   - Guiac stools
   - Recheck in PM to assess for stability
   - If continues to drop, would transfuse, r/o interabdominal/thigh
   bleeding with CT
   # Intubated: Goal to extubate once done with procedures for altered
   mental status w/o.  Favorable RSBI
   - Place NG tube for goal of d/c of OG tube
   # Acute renal failure:  Improving. Baseline creatinine 0.7-0.8 per
   prior labs in OMR. Likely related to hypovolemia in setting of
   insensible losses and acute illness, especially since FeUREA showed a
   pre-renal picture
   - continue to trend creatinine
   - monitor urine output closely
   - While ultrasounding abd, can scan kidneys/ureters/bladder
   - Follow CK in case of NMS
   # HCV cirrhosis: Continue lactulose/rifaximin for hepatic
   encephalopathy. Platelets low but at recent baseline and INR up to 1.7
   which is also at recent baseline. LFTS otherwise appear to be at
   baseline with poor albumin (2.1 at OSH).
   - Follow up liver recs
   # DM2: Patient with history of very difficult to control blood sugars
   on prior admission and high insulin dose requirements.
   - fingersticks q6h
   - sliding scale insulin with 1/2 dose lantus for now
   # Thrombocytopenia: Platelets < 100,000 which is baseline for her.
   - avoid heparin products
   - continue to trend
   - Use pneumoboots for DVT prophy
   # Skin: Diffuse pinpoint, erythematous, raised lesions that have the
   texture of sand paper.  Appears to be chronic, prior work ups suggested
   hypersensitivity reaction.
   # FEN: NPO for now, replete lytes prn, consider tube feeds this
   morning, IV fluid boluses for volume
   - Needs NG tube
   # Access: PIV X 3, 20 g x 2, 18 g x 1, consider CVL if necessary
   # Ppx: PPI per home regimen, pneumoboots, lactulose for BMs
   # CODE: Full.
   # Contact: Brother, [**Name (NI) **] [**Name (NI) **].
   # Dispo: ICU care for now (pt still intubated and on vent)
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2168-11-1**] 05:01 AM 25 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-10-30**] 01:49 AM
   Arterial Line - [**2168-10-30**] 03:16 AM
   18 Gauge - [**2168-10-30**] 12:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: